US08017611B2
4-(6-amino-5-(oxazolo[5,4-b]pyridin-2-yl)pyridin-3-yl)-N-(2-(dimethylamino)ethyl)benzamide
A mixture of 4-(6-amino-5-oxazolo[5,4-b]pyridin-2-yl-3-pyridyl)benzoic acid (100 mg) N,N-dimethylethane-1,2-diamine (0.036 ml), 2-(1H-benzo[d][1,2,3]triazol-1-yl)-1,1,3,3-tetramethylisouronium tetrafluoroborate (145 mg) and 4-methylmorpholine (0.066 ml) in NMP (1 ml) was stirred at room temperature for 15 hours. The reaction mixture was purified by preparative HPLC using a Waters X-Bridge reverse-phase column (5 microns silica, 30 mm diameter, 150 mm length) and decreasingly polar mixtures of water (containing 0.2% ammonium carbonate) and acetonitrile as eluent. The fractions were evaporated to dryness to afford the title compound (38 mg) as a solid; NMR Spectrum: (DMSOd6) 2.19 (s, 6H), 2.42 (t, 2H), 3.35-3.42 (m, 2H), 7.54 (dd, 1H), 7.86 (d, 2H), 7.93 (bs, 2H), 7.95 (d, 2H), 8.30 (dd, 1H), 8.41 (dd, 1H), 8.45 (t, 1H), 8.59 (d, 1H), 8.71 (d, 1H); Mass spectrum: M+H+: 403. RT: 1.73

reactant | 4-(6-amino-5-oxazolo[5,4-b]pyridin-2-yl-3-pyridyl)benzoic acid | 0.036 ml, 100 mg | NC1=C(C=C(C=N1)C1=CC=C(C(=O)O)C=C1)C=1OC2=NC=CC=C2N1 | C18H12N4O3
reactant | 4-methylmorpholine | 0.066 ml | CN1CCOCC1 | C5H11NO
reactant | NMP | 1 ml | CN1CCCC1=O | C5H9NO
product | 4-(6-amino-5-(oxazolo[5,4-b]pyridin-2-yl)pyridin-3-yl)-N-(2-(dimethylamino)ethyl)benzamide | 38 mg | NC1=C(C=C(C=N1)C1=CC=C(C(=O)NCCN(C)C)C=C1)C=1OC2=NC=CC=C2N1 | C22H22N6O2
